US08748434B2
a) (6-Chloro-4-o-tolyl-pyridazin-3-yl)-methyl-amine
The title compound was prepared in analogy to example 1, intermediate a, from 6-chloro-4-o-tolyl-pyridazin-3-ylamine and using a gradient of n-heptane:ethyl acetate (100:0 to 0:70) eluant for the chromatographic purification. A second purification step on a 20 g column using an MPLC (Flashmaster) system (gradient of n-heptane:ethyl acetate (100:0 to 40:60)) furnished the title compound as a colorless solid (17%). MS (ESI+): m/z=234.080 ([M+H]+).

reactant | 6-chloro-4-o-tolyl-pyridazin-3-ylamine | ClC1=CC(=C(N=N1)N)C1=C(C=CC=C1)C | C11H10ClN3
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | (6-Chloro-4-o-tolyl-pyridazin-3-yl)-methyl-amine | 17% | ClC1=CC(=C(N=N1)NC)C1=C(C=CC=C1)C | C12H12ClN3
